US08748446B2
3,5-Diiodoaniline was obtained by the procedure of M. Bérubé (M. Bérubé, et al. Synthesis of Simplified Hybrid Inhibitors of Type 1 17β-Hydroxysteroid Dehydrogenase via the Cross-Metathesis and the Sonogashira Coupling Reactions, Organic Lett. 6 (2004) 3127-3130). 5 g (14.5 mmol) of 3,5-diiodoaniline were stirred with the solution of 5 mL of concentrated hydrochloric acid and 5 mL of water. The mixture was cooled to about −10° C. and 5.5 mL of 20% aqueous solution of NaNO2 was added dropwise with continuous stirring. The suspension was allowed to stir for another 40 minutes. Next, the cooled solution of 10.8 g (47.9 mmol) of SnCl2. 2H2O in 11 mL of concentrated HCl was added dropwise at −10° C. to the suspension of diazocompound. The reaction mixture was kept −10° C. for one hour and at 5° C. overnight. The obtained precipitate of a double salt with tin chloride was filtered off and washed with water. The residue was resuspended in water and added concentrated aqueous solution of NaOH to alkaline medium. The 3,5-diiodophenylhydrazine was extracted with ether, the organic layer was washed in turn with aqueous NaOH, Na2S2O3 and water, and dried with CaCl2. Ether was evaporated to give 4.2 g of 3,5-diiodophenylhydrazine. 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 7.10 (2H, d, 1.2 Hz, arom.), 6.92 (1H, d, 1.2 Hz, arom.), 5.51 (1H, s, NH), 4.12 (2H, broad s, NH2).

reactant | 3,5-diiodoaniline | 14.5 mmol, 5 g | IC=1C=C(N)C=C(C1)I | C6H5I2N
reactant | water | 5 mL | O | H2O
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | SnCl2 | 47.9 mmol, 10.8 g | Cl[Sn]Cl
solvent | HCl | 11 mL | Cl | ClH
solvent | hydrochloric acid | 5 mL | Cl | ClH
product | 3,5-diiodophenylhydrazine | 4.2 g | IC=1C=C(C=C(C1)I)NN | C6H6I2N2
